US08580832B2
(2-{5-[4-(4-Cyano-2-trifluoromethyl-phenoxy)-3-methoxy-benzylidene]-4-oxo-4,5-dihydro-thiazol-2-ylamino}-ethyl)-carbamic acid tert-butyl ester was prepared using 4-[2-Methoxy-4-(2-methylsulfanyl-4-oxo-4H-thiazol-5-ylidenemethyl)-phenoxy]-3-trifluoromethyl-benzonitrile and (2-Amino-ethyl)-carbamic acid tert-butyl ester as described in Example 5C.

reactant | 4-[2-Methoxy-4-(2-methylsulfanyl-4-oxo-4H-thiazol-5-ylidenemethyl)-phenoxy]-3-trifluoromethyl-benzonitrile | COC1=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=CC(=C1)C=C1C(N=C(S1)SC)=O | C20H13F3N2O3S2
reactant | (2-Amino-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
product | (2-{5-[4-(4-Cyano-2-trifluoromethyl-phenoxy)-3-methoxy-benzylidene]-4-oxo-4,5-dihydro-thiazol-2-ylamino}-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCNC=1SC(C(N1)=O)=CC1=CC(=C(C=C1)OC1=C(C=C(C=C1)C#N)C(F)(F)F)OC)=O | C26H25F3N4O5S
